data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[O:1]=[C:31]1[N:5]([CH3:27])[C:29](=[O:7])[N:6]([CH3:28])[C:32](=[O:2])[C:14]1=[CH:18][c:8]1[cH:35][cH:3][c:15]([O:11][CH3:9])[cH:4][cH:36]1.[cH:10]1[cH:20][cH:12][c:25]([C:22](=[C:16]2[N:17]([CH3:33])[C:23]([CH3:30])=[C:37]([CH3:34])[S:24]2)[O:26][CH3:19])[cH:13][cH:21]1>>[O-:1][c:31]1[n:5]([CH3:27])[c:29](=[O:7])[n:6]([CH3:28])[c:32](=[O:2])[c:14]1[CH:18]([c:8]1[cH:35][cH:3][c:15]([O:11][CH3:9])[cH:4][cH:36]1)[C:22]([c:16]1[n+:17]([CH3:33])[c:23]([CH3:30])[c:37]([CH3:34])[s:24]1)([c:25]1[cH:12][cH:20][cH:10][cH:21][cH:13]1)[O:26][CH3:19]", "epd": [["LP-/Pi+", [17], [16, 17]], ["Pi-/Sigma+", [22, 16], [22, 18]], ["Pi-/Pi+", [18, 14], [14, 31]], ["Pi-/LP+", [31, 1], [1]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:1][C:9](=[C:2]=[N-:13])[c:14]1[cH:15][cH:20][cH:22][cH:21][cH:16]1.[cH:3]1[c:6]([N+:17](=[O:10])[O-:24])[cH:4][c:7]([N+:18](=[O:11])[O-:23])[cH:5][c:8]1[N+:19](=[O:12])[O-:25]>>[CH3:1][C:9]([C:2]#[N:13])([CH:3]1[C:6](=[N+:17]([O-:10])[O-:24])[CH:4]=[C:7]([N+:18](=[O:11])[O-:23])[CH:5]=[C:8]1[N+:19](=[O:12])[O-:25])[c:14]1[cH:15][cH:20][cH:22][cH:21][cH:16]1", "epd": [["LP-/Pi+", [13], [2, 13]], ["Pi-/Sigma+", [9, 2], [9, 3]], ["Pi-/Pi+", [3, 6], [6, 17]], ["Pi-/LP+", [17, 10], [10]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:2](=[O:19])([O:28][CH2:4][c:17]1[cH:22][cH:7][cH:13][cH:10][cH:25]1)[N:33]=[N:32][C:3](=[O:20])[O:29][CH2:5][c:18]1[cH:23][cH:8][cH:14][cH:9][cH:24]1.[CH:1]1([C:11](=[O:27])[O:37][CH3:15])[CH2:16][CH2:34][CH2:30][N:36]1[C:31]1=[CH:21][CH2:6][CH2:35][CH2:26][CH2:12]1>>[CH:1]1([C:11](=[O:27])[O:37][CH3:15])[CH2:16][CH2:34][CH2:30][N+:36]1=[C:31]1[CH2:12][CH2:26][CH2:35][CH2:6][CH:21]1[N:32]([C:3](=[O:20])[O:29][CH2:5][c:18]1[cH:23][cH:8][cH:14][cH:9][cH:24]1)[N:33]=[C:2]([O-:19])[O:28][CH2:4][c:17]1[cH:22][cH:7][cH:13][cH:10][cH:25]1", "epd": [["LP-/Pi+", [36], [31, 36]], ["Pi-/Sigma+", [21, 31], [21, 32]], ["Pi-/Pi+", [32, 33], [33, 2]], ["Pi-/LP+", [2, 19], [19]]]}
{"reaction_name": "Hofmann rearrangement", "rsmi": "[H:6][O-:8].[O:1]=[C:5]([N:3]([Br:2])[H:4])[CH3:7]>>[Br-:2].[H:4][O:8][H:6].[O:1]=[C:5]=[N:3][CH3:7]", "epd": [["Sigma-/Pi+", [5, 7], [3, 5]], ["Sigma-/LP+", [2, 3], [2]], ["LP-/Sigma+", [8], [4, 8]], ["Sigma-/LP+", [3, 4], [3]], ["LP-/Sigma+", [3], [3, 7]]]}
{"reaction_name": "α-Alkylation of β-dicarbonyls", "rsmi": "[CH3:1][C:5]([CH-:4][C:6]([CH3:2])=[O:9])=[O:8].[CH3:3][I:7]>>[CH3:1][C:5]([CH:4]([CH3:3])[C:6]([CH3:2])=[O:9])=[O:8].[I-:7]", "epd": [["LP-/Sigma+", [4], [3, 4]], ["Sigma-/LP+", [3, 7], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][C:17](=[CH:3][c:8]1[cH:11][cH:5][cH:23][cH:6][cH:12]1)[O:22][CH2:24][CH3:10].[c:2]12[c:16]([n:7][o:21][n+:20]1[O-:4])[n:15][c:13]([O:18][CH3:14])[n:9][cH:19]2>>[O:1]=[C:17]([CH:3]([c:8]1[cH:11][cH:5][cH:23][cH:6][cH:12]1)[CH:19]1[c:2]2[c:16]([n:7][o:21][n+:20]2[O-:4])[N:15]=[C:13]([O:18][CH3:14])[N-:9]1)[O:22][CH2:24][CH3:10]", "epd": [["LP-/Pi+", [1], [17, 1]], ["Pi-/Sigma+", [3, 17], [3, 19]], ["Pi-/LP+", [19, 9], [9]]]}
{"reaction_name": "Krapcho decarboxylation", "rsmi": "[CH3:1][C:2](=[O:3])[CH2:4][C:5](=[O:6])[O:7][CH3:8].[Cl-:9]>>[CH3:1][C:2](=[O:3])[CH2-:4].[O:6]=[C:5]=[O:7].[CH3:8][Cl:9]", "epd": [["LP-/Sigma+", [9], [8, 9]], ["Sigma-/LP+", [4, 5], [4]], ["Sigma-/Pi+", [7, 8], [5, 7]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:14]=[C:12]=[O:15])[c:18]1[cH:9][cH:3][c:17]([CH3:19])[cH:4][cH:10]1.[cH:6]1[n:7][c:13]([O-:11])[cH:20][cH:8][cH:16]1>>[O:1]=[S:5](=[O:2])([N-:14][C:12]([n:7]1[cH:6][cH:16][cH:8][cH:20][c:13]1=[O:11])=[O:15])[c:18]1[cH:9][cH:3][c:17]([CH3:19])[cH:4][cH:10]1", "epd": [["Pi-/Sigma+", [6, 7], [7, 12]], ["LP-/Pi+", [11], [11, 13]], ["Pi-/LP+", [12, 14], [14]], ["Pi-/Pi+", [8, 16], [6, 16]], ["Pi-/Pi+", [13, 20], [8, 20]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:4](=[O+:17][CH3:16])[c:19]1[cH:10][cH:8][cH:7][cH:9][cH:11]1.[c:1]1([C:6]([C:3]#[N:5])=[C:15]([O:12][CH2:18][CH3:2])[O-:13])[cH:20][cH:22][cH:14][cH:23][cH:21]1>>[c:1]1([C:6]([C:3]#[N:5])([CH:4]([O:17][CH3:16])[c:19]2[cH:10][cH:8][cH:7][cH:9][cH:11]2)[C:15]([O:12][CH2:18][CH3:2])=[O:13])[cH:20][cH:22][cH:14][cH:23][cH:21]1", "epd": [["LP-/Pi+", [13], [15, 13]], ["Pi-/Sigma+", [6, 15], [6, 4]], ["Pi-/LP+", [4, 17], [17]]]}
{"reaction_name": "β-Amino carbonyl elimination", "rsmi": "[CH3:1][CH:3]([CH:5]([C:4]([CH3:2])=[O:9])[H:10])[N:6]([CH3:7])[CH3:8]>>[CH3:1][CH:3]=[CH:5][C:4]([CH3:2])=[O:9].[N:6]([CH3:7])([CH3:8])[H:10]", "epd": [["LP-/Sigma+", [6], [6, 10]], ["Sigma-/LP+", [5, 10], [5]], ["LP-/Pi+", [5], [3, 5]], ["Sigma-/LP+", [3, 6], [6]]]}
